US04738972
2-Methyl-1,2,3,4-tetrahydroquinoline
2-Methylquinoline (10 g, 0.070 mol) was refluxed in 250 ml ethanol. While refluxing, sodium (22.9 g, 1.0 mol) was added cautiously over a period of 1 hour. The mixture was refluxed for an additional 3.5 hours, cooled to room temperature, poured into 500 ml H2O, and extracted 3×500 ml toluene. The organic layers were combined, dried (K2CO3) and stripped to yield title produce as an oil, 9.2 g.

reactant | 2-Methylquinoline | 0.070 mol, 10 g | CC1=NC2=CC=CC=C2C=C1 | C10H9N
reactant | sodium | 1.0 mol, 22.9 g | [Na] | Na
reactant | H2O | 500 ml | O | H2O
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 2-Methyl-1,2,3,4-tetrahydroquinoline | CC1NC2=CC=CC=C2CC1 | C10H13N
